data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2356,2617,[CH3:16][C:17](=[O:18])[CH:19]=[NH+:20][C-:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1.[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([C:7]([F:8])([F:9])[F:10])([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)([c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[NH:20][CH:19]2[C:17]([CH3:16])=[O:18],water,298.15,39.77081474917974,12.733014001401514
2228,2470,[CH3:20][NH:21][C:22](=[O:23])[c-:24]1[o+:25][c:26]([C:27](=[O:28])[O:29][CH3:30])[o:31][c:32]1=[O:33].[CH:1]1=[CH:2][CH:3]2[O:4][CH:5]1[C:6]([c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1)=[C:13]2[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH:1]1=[CH:2][CH:3]2[O:4][CH:5]1[C:6]1([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)[C:13]2([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[C:24]2([C:22]([NH:21][CH3:20])=[O:23])[O:25][C:26]1([C:27](=[O:28])[O:29][CH3:30])[O:31][C:32]2=[O:33],water,298.15,15.934415782916505,-17.95570886913015
2243,2488,[CH3:11][C:12](=[O:13])[C:14]([C:15]([CH3:16])=[O:17])=[N+:18]([CH3:19])[C-:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:14]([C:12]([CH3:11])=[O:13])([C:15]([CH3:16])=[O:17])[N:18]([CH3:19])[C:20]3([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,43.411760183910296,-18.021761404867423
3996,4572,[CH3:9][NH:10][C:11](=[O:12])[c-:13]1[nH+:14][c:15]([C:16]([CH3:17])=[O:18])[o:19][c:20]1=[O:21].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[C:13]2([C:11]([NH:10][CH3:9])=[O:12])[NH:14][C:15]1([C:16]([CH3:17])=[O:18])[O:19][C:20]2=[O:21],water,298.15,28.63966630591813,-2.197884187787226
1577,1745,[CH3:16][NH:17][C:18](=[O:19])[CH:20]=[N+:21]([CH3:22])[C-:23]([C:24]#[N:25])[C:26]([CH3:27])=[O:28].[N:1]#[C:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[N:1]#[C:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:23]([C:24]#[N:25])([C:26]([CH3:27])=[O:28])[N:21]([CH3:22])[CH:20]2[C:18]([NH:17][CH3:16])=[O:19],water,298.15,20.26007191566913,-8.289198479883693
4367,4988,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[c-:15]1[o+:16][c:17]([C:18]([CH3:19])=[O:20])[o:21][c:22]1=[O:23]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]1([C:13]([NH:12][CH3:11])=[O:14])[O:16][C:17]2([C:18]([CH3:19])=[O:20])[O:21][C:22]1=[O:23],water,298.15,9.195646971475393,-14.806028307332994
951,1032,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([N+:17]#[C:18][C:19]#[N:20])[C:21](=[O:22])[NH:23][CH3:24].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([CH3:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([C:21](=[O:22])[NH:23][CH3:24])[N:17]=[C:18]2[C:19]#[N:20],water,298.15,5.4347575707148765,-51.91724665071867
4438,5070,[CH3:9][NH:10][C:11](=[O:12])[C:13]#[N+:14][C-:15]([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:15]([C:16]([CH3:17])=[O:18])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[N:14]=[C:13]1[C:11]([NH:10][CH3:9])=[O:12],water,298.15,12.561444006749875,-37.41682855906456
1971,2186,[CH3:18][O:19][C:20](=[O:21])[C-:22]([C:23]#[N:24])[N+:25]([CH3:26])=[C:27]([CH3:28])[CH3:29].[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]#[C:8][C:9]([C:10]#[N:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]2=[C:8]([C:9]([C:10]#[N:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:27]([CH3:28])([CH3:29])[N:25]([CH3:26])[C:22]2([C:20]([O:19][CH3:18])=[O:21])[C:23]#[N:24],water,298.15,22.893590495033568,-28.99561193496962
589,645,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][Br:7].[CH3:8][O:9][C:10](=[O:11])[C:12](=[NH+:13][NH-:14])[C:15](=[O:16])[O:17][CH3:18]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[C:12]([C:10]([O:9][CH3:8])=[O:11])([C:15](=[O:16])[O:17][CH3:18])[NH:13][NH:14]1,water,298.15,21.78301117117653,-37.96282389479428
3618,4137,[CH3:10][C:11](=[O:12])[C:13]#[N+:14][C-:15]([CH3:16])[C:17]([CH3:18])=[O:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:13]([C:11]([CH3:10])=[O:12])=[N:14][C:15]1([CH3:16])[C:17]([CH3:18])=[O:19],water,298.15,15.853181185555227,-30.381277279820782
